US05173493
A mixture of 8,9-dihydro-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (21.28 g), acetic acid (500 ml), and water (80 ml) was stirred at 80° C. for 1 hour and 10 minutes. After evaporation of the solvent, the residue was diluted with water, neutralized with aqueous sodium bicarbonate solution and 3N aqueous sodium hydroxide solution, and extracted with chloroform to give precipitates. The precipitates were collected, washed with water and chloroform, and dried to give 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (5.8 g). The chloroform layer separated was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated to 50 ml. The chloroform solution was diluted with toluene and allowed to stand at room temperature overnight. The crystals were collected and washed with toluene to give a second crop of 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6 (7H)-one (5.2 g).

reactant | 8,9-dihydro-7-[(5-methyl-1-trityl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 21.28 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C1CCC=2N(C3=CC=CC=C3C2)C1=O | C36H29N3O
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | 80 ml | O | H2O
product | 8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 5.8 g | CC1=C(N=CN1)C=C1CCC=2N(C3=CC=CC=C3C2)C1=O | C17H15N3O
